* C:\Users\afzal\OneDrive\Desktop\ltspicetutorials\rc4.asc
R1 0 N001 1k
C1 vout 0 1µ
S1 vout N001 vctrl 0 SW
V1 0 vctrl PULSE(-1 1 1m 0 0 5m)
.tran 10m
.ic v(vout)=5
.model SW SW
.backanno
.end
